US08445684B2
3-[3(R)-[(3-Phenylpropoxy)methyl]-1-pyrrolidinyl]-5-[(2(S)-pyrrolidinyl)methoxy]pyridine
To a solution of 3-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-[3(R)-[(3-phenylpropoxy)methyl]-1-pyrrolidinyl]pyridine (280 mg, 0.56 mmol) in CH2Cl2 (5 mL) was added a mixture of CF3COOH (1 mL) and water (0.1 mL) under N2. The solution was stirred overnight at room temperature. After concentration under vacuum, the crude product was purified by preparative HPLC (column: SunFire Prep C18, 150×19 mm, 5 μm particle size; UV detection at 270 nm; flow 20 mL/min; mobile phase: A, water with 0.05% TFA; B, MeOH; 0-6 min, 40% to 50% B in A; 6-7 min, 50%; 7-8 min, 100%). The eluate was partially evaporated under reduced pressure (bath 30° C.) to remove CH3OH. The residue was basified with saturated aqueous NaHCO3 solution and extracted with EtOAc. The combined organic layers were washed with brine and dried. After concentration in vacuo, the free base (150 mg, 67%) was obtained as a yellowish oil. 1H NMR (CDCl3, 300 MHz) δ 7.67 (d, 1H, J=2.1 Hz), 7.64 (d, 1H, J=2.1 Hz), 7.32-7.19 (m, 5H), 6.37 (t, 1H, J=2.1 Hz), 4.03-3.96 (m, 2H), 3.64-3.60 (m, 1H), 3.49-3.29 (m, 7H), 3.13-3.01 (m, 3H), 2.90 (br s, 1H), 2.74-2.63 (m, 3H), 2.19-2.13 (m, 1H), 2.04-1.88 (m, 6H), 1.69-1.57(m, 1H). LC-MS (ESI) m/z 396 (M+H+).

reactant | 3-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-[3(R)-[(3-phenylpropoxy)methyl]-1-pyrrolidinyl]pyridine | 0.56 mmol, 280 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC=1C=NC=C(C1)N1C[C@@H](CC1)COCCCC1=CC=CC=C1 | C29H41N3O4
reactant | CF3COOH | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water | 0.1 mL | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-[3(R)-[(3-Phenylpropoxy)methyl]-1-pyrrolidinyl]-5-[(2(S)-pyrrolidinyl)methoxy]pyridine | 150 mg, 67% | C1(=CC=CC=C1)CCCOC[C@H]1CN(CC1)C=1C=NC=C(C1)OC[C@H]1NCCC1 | C24H33N3O2
